* 290V to 12V sync buck (M2 replaces D1), 300W
* D=41.4m, Rload=480m; dead time ~5% each end
Vin in 0 290
M1 in gate sw 0 NMOS W=1 L=1
M2 sw gate2 0 0 NMOS W=1 L=1
L1 sw out 220u
C1 out 0 470u
Rload out 0 480m
Rbleed sw 0 1Meg
Vgate  gate  0 PULSE(0 12 0 1n 1n 414n 10u)
Vgate2 gate2 0 PULSE(0 12 914n 1n 1n 8.89u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.tran 1n 5m
.probe V(*) I(*)
.end
